US05945502
1,4-Bis(chloromethyl)-2,3-di-(4-fluorophenyl)-benzene:
A 250 mL 3 neck round-bottom flask equipped with a condenser was flushed with nitrogen and then loaded with 1,4-bis(hydroxymethyl)-2,3-di-(4-fluorophenyl)-benzene (2.70 g, 8.28 mmol), thionyl chloride (2.20 g, 18.5 mmol), methylene chloride (90 mL) and 3 drops of pyridine. The solution was then refluxed overnight and then cooled to room temperature. Methylene chloride was removed by rotary evaporation and then methanol was added to precipitate out the white product (0.77 g, 26% yield).

reactant | 1,4-bis(hydroxymethyl)-2,3-di-(4-fluorophenyl)-benzene | 8.28 mmol, 2.70 g | OCC1=C(C(=C(C=C1)CO)C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C20H16F2O2
reactant | thionyl chloride | 18.5 mmol, 2.20 g | S(=O)(Cl)Cl | Cl2OS
reactant | methylene chloride | 90 mL | C(Cl)Cl | CH2Cl2
catalyst | pyridine | 3 drops | N1=CC=CC=C1 | C5H5N
product | 1,4-Bis(chloromethyl)-2,3-di-(4-fluorophenyl)-benzene | 0.77 g, 26% yield | ClCC1=C(C(=C(C=C1)CCl)C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C20H14Cl2F2
